US08669234B2
N′-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-N′-isopropyl-hydrazine-carboxylic acid methyl ester (0.533 g), 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]-bi[[1,3,2]dioxaborolanyl] (0.644 g), and KOAc (0.309 g) were dissolved in dioxane (8 mL). The solution was degassed with nitrogen, and Pd(PPh3)4 (0.0562 g) was added, and reaction was stirred at 80° C. for 2 days. Solid was removed by vacuum filtration, and solvent was removed under vacuum. The resulting oil was subjected to silica gel chromatography using a 40 g ISCO column and effluent of 0-5% MeOH:DCM. The fractions containing product were combined and the solvent was removed under vacuum, giving N′-Isopropyl-N′-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-hydrazinecarboxylic acid methyl ester (0.564 g, 96%) as a yellow solid.

reactant | N′-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-N′-isopropyl-hydrazine-carboxylic acid methyl ester | 0.533 g | COC(=O)NN(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C19H24BrN5O3
reactant | 4,4,5,5,4′,4′,5′,5′-Octamethyl-[2,2′]-bi[[1,3,2]dioxaborolanyl] | 0.644 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 0.309 g | CC(=O)[O-].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N′-Isopropyl-N′-(2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-hydrazinecarboxylic acid methyl ester | 0.564 g, 96% | COC(=O)NN(C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C | C25H36BN5O5
